US05334716
A mixture of 2'-methoxy-4'-(2-methyl-1-propenyl)valerophenone (88 mg) and 10% palladium on carbon (30 mg) was stirred under hydrogen atmosphere for 30 minutes. Catalyst was removed by filtration and the filtrate was concentrated. The residue was dissolved in methanol (5 ml) and then sodium borohydride (16 mg) was added. The reaction mixture was stirred at room temperature for 30 minutes. The mixture was poured into ice water and acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to give 1-(4-isobutyl-2-methoxyphenyl)pentanol (88 mg) as an oil.

reactant | 2'-methoxy-4'-(2-methyl-1-propenyl)valerophenone | 88 mg | COC1=C(C=CC(=C1)C=C(C)C)C(CCCC)=O | C16H22O2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 1-(4-isobutyl-2-methoxyphenyl)pentanol | 88 mg | C(C(C)C)C1=CC(=C(C=C1)C(CCCC)O)OC | C16H26O2
